US03998966
A mixture of 31.6 g. of diethyl 6-methoxy-2-naphthylmalonate, 2.4 g. of sodium hydride, and 350 ml. of methanol is stirred for one hour; then 24 g. of methyliodide are added and the resulting mixture is refluxed for two hours. The cooled mixture is neutralized with aqueous oxalic acid. The product, diethyl 6-methoxy-2-naphthyl-α-methylmalonate, is isolated, hydrolyzed, and decarboxylated by the means of the above described processes to give 6-methoxy-2-naphthyl-α-methylacetic acid.

reactant | diethyl 6-methoxy-2-naphthylmalonate | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)OCC)C(=O)OCC | C18H20O5
reactant | sodium hydride | [H-].[Na+]
reactant | methyliodide | CI | CH3I
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | CO | CH4O
product | diethyl 6-methoxy-2-naphthyl-α-methylmalonate | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)OCC)(C(=O)OCC)C | C19H22O5
